US06194447B1
cis-1,5-bis(2-amino-1-benzimidazolyl)cyclooctane (Compound 1j).
To a hot (60° C.) solution of 2-aminobenzimidazole (0.22 g; 1.65 mmol) in DMF (25 ml) was added sodium hydride (70 mg; 60% dispersion in mineral oil), and the mixture was stirred for 30 minutes prior to addition of cis-1,5-bis(p-toluenesulfonyloxy) cyclooctane. The resulting mixture was stirred at 100° C. for four days, cooled and filtered. The filtrate was diluted with water and the precipitate was filtered off, washed with water and dried to yield the desired product (9 mg).

reactant | 2-aminobenzimidazole | 1.65 mmol, 0.22 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | sodium hydride | 70 mg | [H-].[Na+]
reactant | cis-1,5-bis(p-toluenesulfonyloxy) cyclooctane | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H]1CCC[C@@H](CCC1)OS(=O)(=O)C1=CC=C(C=C1)C)C | C22H28O6S2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | cis-1,5-bis(2-amino-1-benzimidazolyl)cyclooctane | 9 mg | NC1=NC2=C(N1[C@@H]1CCC[C@@H](CCC1)N1C(=NC3=C1C=CC=C3)N)C=CC=C2 | C22H26N6
